US06706726B2
3.1.: Methyl 2,2-diphenylpropionate 3b
37.60 g (0.247 mol) of DBU are added dropwise to a suspension of 50.8 g (0.225 mol) of 2,2-diphenylpropionic acid and 200 ml of acetonitrile at 20° C. 70.10 g (0.494 mol) of methyliodide are added dropwise to the resulting solution within 30 min. Then the mixture is stirred overnight at 20° C. The solvent is evaporated down, the residue is extracted with diethylether/water, the organic phase is washed with water, dried over Na2SO4 and evaporated to dryness. Yield: 48.29 g of viscous residue 32 (=89% of theory).

reactant | DBU | 0.247 mol, 37.60 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2,2-diphenylpropionic acid | 0.225 mol, 50.8 g | C1(=CC=CC=C1)C(C(=O)O)(C)C1=CC=CC=C1 | C15H14O2
reactant | methyliodide | 0.494 mol, 70.10 g | CI | CH3I
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | Methyl 2,2-diphenylpropionate | C1(=CC=CC=C1)C(C(=O)OC)(C)C1=CC=CC=C1 | C16H16O2
